US20010021718A1
1-[(5-{(1R)-1-[2-(tert-Butoxy)-2-oxoethyl]-4-cyclohexylbutyl}1,2,4-oxadiazol-3-yl)carbonyl]-3-azetidinecarboxylic acid
A solution of ethyl 5-{(1R)-1 -[2-(tert-butoxy)-2-oxoethyl]4-cyclohexylbutyl}-1,2,4-oxadiazole-3-carboxylate (Preparation 3) (790 mg, 2.00 mmol) in dimethylsulphoxide (25 ml) was treated with 3-azetidine carboxylic acid (505 mg, 5.00 mmol) and potassium carbonate (690 mg, 5.00 mmol) and the resulting mixture was heated at 95° C. under a nitrogen atmosphere for 16 hours. The mixture was cooled and the mixture treated with hydrochloric acid (1M, 25 ml) then diluted further with water (25 ml) and extracted with ethyl acetate (×3). The combined organic layers were washed with brine, dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a gradient system of dichloromethane:methanol (99:1) gradually changing to dichloromethane:methanol (90:10) to afford the title compound as a pale yellow oil (490 mg).

reactant | ethyl 5-{(1R)-1 -[2-(tert-butoxy)-2-oxoethyl]4-cyclohexylbutyl}-1,2,4-oxadiazole-3-carboxylate | 2.00 mmol, 790 mg | C(C)(C)(C)OC(C[C@@H](CCCC1CCCCC1)C1=NC(=NO1)C(=O)OCC)=O | C21H34N2O5
reactant | 3-azetidine carboxylic acid | 5.00 mmol, 505 mg | N1CC(C1)C(=O)O | C4H7NO2
reactant | potassium carbonate | 5.00 mmol, 690 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1M, 25 ml | Cl | ClH
solvent | dimethylsulphoxide | 25 ml | CS(=O)C | C2H6OS
solvent | water | 25 ml | O | H2O
product | 1-[(5-{(1R)-1-[2-(tert-Butoxy)-2-oxoethyl]-4-cyclohexylbutyl}1,2,4-oxadiazol-3-yl)carbonyl]-3-azetidinecarboxylic acid | 490 mg | C(C)(C)(C)OC(C[C@@H](CCCC1CCCCC1)C1=NC(=NO1)C(=O)N1CC(C1)C(=O)O)=O | C23H35N3O6
